US06936612B2
A 6-dram vial was charged with 6-bromo-8-cyclopentyl-5-methyl-2-[5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-8H-pyrido[2,3-d]pyrimidin-7-one (266 mg, 0.53 mmol) and tetrakis(triphenylphosphine) palladium(0) (61 mg, 0.053 mmol) and the atmosphere replaced with argon. Toluene (5 ml) was added followed by tributyl-(1-ethoxy-vinyl)-stannane (289 mg, 0.80 mmol). The vial was heated to 110° C. and stirred for 12 h. The reaction mixture was diluted with chloroform (25 ml) and adsorbed onto silica gel. Chromatographic purification on silica gel (chloroform/2-propanol+1% TEA gradient) gave the 8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-2-[5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-8H-pyrido[2,3-d]pyrimidin-7-one (237 mg, 0.48 mmol). MS (APCI+) 490 (M+1, 100).

reactant | 6-bromo-8-cyclopentyl-5-methyl-2-[5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-8H-pyrido[2,3-d]pyrimidin-7-one | 0.53 mmol, 266 mg | BrC1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C)N(C1=O)C1CCCC1)C | C23H28BrN7O
reactant | Toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 0.80 mmol, 289 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.053 mmol, 61 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-2-[5-(4-methyl-piperazin-1-yl)-pyridin-2-ylamino]-8H-pyrido[2,3-d]pyrimidin-7-one | 0.48 mmol, 237 mg | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C)C)C(=C)OCC)=O | C27H35N7O2
